US05869516
2-(4-aminophenyl)-5-methyl-2,4-dihydro-3-pyrazolone (amorphous)
0.17 ml of acetic anhydride is added dropwise to a solution of 1.0 g of 4-(4-(2-ethoxyanilinomethylene)-4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)benzenesulfonamide and 0.9 g of dimethylaminopyridine in 30 ml of pyridine while cooling in ice, and the mixture is then stirred for 10 hours. The residue obtained after concentration in vacuo is mixed with dilute hydrochloric acid, and the crystals which have separated out are filtered off with suction and triturated with ethanol.

reactant | acetic anhydride | 0.17 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(4-(2-ethoxyanilinomethylene)-4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)benzenesulfonamide | 1.0 g | C(C)OC1=C(NC=C2C(=NN(C2=O)C2=CC=C(C=C2)S(=O)(=O)N)C)C=CC=C1 | C19H20N4O4S
reactant | dimethylaminopyridine | 0.9 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-aminophenyl)-5-methyl-2,4-dihydro-3-pyrazolone | NC1=CC=C(C=C1)N1N=C(CC1=O)C | C10H11N3O
